US04119710
1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-propylamino-ethanol,
m.p. of the hydrochloride: 187°-189° C., was prepared from 4'-amino-3'-chloro-5'-cyano-2-propylamino-acetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-5'-cyano-2-propylamino-acetophenone | NC1=C(C=C(C=C1C#N)C(CNCCC)=O)Cl | C12H14ClN3O
product | 1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-propylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNCCC)O)Cl | C12H16ClN3O
